US06593331B2
Buspirone (19.3 g, 50 mmole) was dissolved in dry THF (400 mL) and the resulting solution was cooled to −78° C. A solution of KN(SiMe3)2 in toluene (100 mL, 1 M) was added slowly. After the reaction mixture was stirred at −78° C. for 1 h, a solution of 2-(phenylsulfonyl)-3-phenyloxaziridine (Davis reagent, prepared according to literature method: F. A. Davis, et al., Org. Synth., 1988, 66, 203) (17.0 g, 65 mmole) in dry THF (150 mL, precooled to −78° C.) was added quickly via a cannular. After stirred for 30 min at −78° C., the reaction was quenched with 1 N HCl solution (500 mL). It was extracted with EtOAc (3×500 mL). The aqueous layer was separated, neutralized with saturated sodium bicarbonate solution , and extracted with EtOAc (3×500 mL). The combined organic extracts were dried over Na2SO4, filtered, and concentrated under reduced pressure to give a white solid residue which was subjected to column chromatography using CH2Cl2/MeOH/NH4OH (200:10:1) as the eluent to give pure 6-hydroxy-buspirone (I, 7.2 g) and a mixture of buspirone and 6-hydroxy-buspirone (I). The mixture was purified by above column chromatography to afford another 3.3 g of pure 6-hydroxy-buspirone (I).

reactant | Buspirone | 50 mmole, 19.3 g | C=1C=NC(=NC1)N2CCN(CC2)CCCCN3C(=O)CC4(CCCC4)CC3=O | C21H31N5O2
reactant | 2-(phenylsulfonyl)-3-phenyloxaziridine | C1(=CC=CC=C1)S(=O)(=O)N1OC1C1=CC=CC=C1 | C13H11NO3S
reactant | CH2Cl2 MeOH NH4OH | C(Cl)Cl.CO.[NH4+].[OH-]
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | toluene | 1 M, 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 6-hydroxy-buspirone | 7.2 g | C=1C=NC(=NC1)N2CCN(CC2)CCCCN3C(=O)CC4(CCCC4)C(C3=O)O | C21H31N5O3
